Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / amoxicillin
 
Attending: ___.
 
Chief Complaint:
asymptomatic LUL nodule
 
Major Surgical or Invasive Procedure:
___
1. Left robotic-assisted wedge resection of left upper lobe
    cancer.
2. Mediastinal lymph node sampling.
3. Lysis of adhesions.

 
History of Present Illness:
Ms ___ is an ___ former smoker
with h/o breast cancer who was noted to have a LUL lung nodule 
on
staging CT. Her LUL pulmonary nodule was initially reported in
___, measuring 9 x 5mm and has been followed by serial
imaging. It was noted to have increased in size on imaging to
1.4cm in ___ but due to her recent ___ biopsy was
deferred as ___ months of antiplatelet therapy was warranted. 
PET
(___) again demonstrated FDG uptake with SUV max 8.3 in the
LUL spiculated nodule. Additionally, there was low level FGD
uptake in the L axilla. Her repeat chest CT ___ noted the LUL
nodule had increased to 1.8 and there was also a new RLL 1 cm
nodule. She underwent EBUS/TBNA ___. Path of the nodule
returned as poorly differentiated NSCLC favor adenoca. She
currently complains of fatigue, which is unchanged over the past
several months. She has had a mild cough since her bronchoscopy,
but has been unable to expectorate any phlegm. She has SOB,
dyspnea, or chest pain.

 
Past Medical History:
HTN
Hyperlipidemia
COPD
CAD s/p stents
Breast cancer s/p b/l mastectomy (___), XRT, Aromatase 
STEMI Inferior (___)
100% mid RCA occlusion and a 70% mid LAD occlusion. 
Thrombectomy RCA w/ ___ ___
Depression

 
Social History:
___
Family History:
Mother: colon cancer
Father: CAD
___: brother lung cancer
___
Other

 
Physical Exam:
Temp: 98 HR: 73 BP: 181/70 RR: 16 O2 Sat: 99ra
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

MS     

        
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
                    WBC  RBC   Hgb  Hct  MCV MCH  MCHC RDW RDWSD 
Plt Ct 
___ 12:51    10.0 3.73* 11.0* 34.0 91 29.5 32.4 15.2 
50.3* 209 
___ 11:30    8.8  4.13  12.6 37.3  90 30.5 33.8 15.1 
49.1* 214 

  
                Glucose UreaN Creat  Na  K  Cl HCO3 AnGap 
___ 10:44    118*1 5*    0.6 134 3.8 100 24  14 

 
                    BNP 
___ 10:44    248

___ CXR :
There is substantial interval improvement in the left 
pneumothorax.  Left 
retrocardiac consolidation has increased. 
  
___ CXR :
In comparison with the earlier study of this date, the left 
chest tube has 
been removed.  No evidence of pneumothorax.  Remainder the study 
is unchanged. 

___ CXR :
1. Air-fluid level in the left upper lung suggestive of a 
post-operative 
collection.  Chest CT could be obtained for further evaluation. 
2. Stable pneumoperitoneum and left apical pneumothorax. 
3. Increased retrocardiac opacification is likely due to 
atelectasis, less 
likely pneumonia 

  

 
Brief Hospital Course:
Mrs. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a left robotic-assisted wedge 
resection of left upper lobe cancer, mediastinal lymph node 
sampling and lysis of adhesions. She tolerated the procedure 
well and returned to the PACU in stable condition.  She 
maintained stable hemodynamics and her pain was controlled with 
IV Dilaudid.  Her ___ tube drained a small amount of thin 
bloody fluid and had an air leak.  Her initial chest xray showed 
poor reexpansion of the left lung but this improved over 24 
hours.

Following transfer to the Surgical floor she continued to 
progress well.  Her ___ drain was removed on post op day #1 as 
her air leak resolved, the drainage was minimal and her lung had 
reexpanded on chest xray. She was up and walking steadily but 
unfortunately was unable to wean from oxygen.  Her room air 
saturations were in the low to mid 80's with ambulation.  On 2 
LPM at rest she was 92-94%.  She was using her incentive 
spirometer though had low volumes. Her pain was controlled with 
Tylenol and occasional Oxycodone. Her port sites were healing 
well.

She was hospitalized for an additional day for pulmonary toilet 
but was still unable to wean from oxygen. Her hematocrit was 34, 
her chest xray showed no signs of CHF and her BNP was 248. Her 
xray did show a loculated left pneumothorax and basilar 
atelectasis.  

Plans for short term home oxygen were made as well as ___ 
services for cardiopulmonary assessment and oxygen weaning. She 
was discharged to home on ___ and will follow up in the 
Thoracic cli9nic with a chest xray prior in 2 weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. butalbital-acetaminophen-caff 50-300-40 mg oral DAILY:PRN 
headache 
2. Lisinopril 10 mg PO DAILY 
3. Mirtazapine 30 mg PO QHS 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Exemestane 25 mg PO DAILY 
6. Zolpidem Tartrate 5 mg PO QHS 
7. Metoprolol Tartrate 25 mg PO BID 
8. Rosuvastatin Calcium 20 mg PO QPM 
9. TiCAGRELOR 90 mg PO BID 
10. Aspirin 81 mg PO DAILY 
11. FLUoxetine 20 mg PO DAILY 

 
Discharge Medications:
1. Exemestane 25 mg PO DAILY 
2. FLUoxetine 20 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Mirtazapine 30 mg PO QHS 
6. Rosuvastatin Calcium 20 mg PO QPM 
7. TiCAGRELOR 90 mg PO BID 
8. Tiotropium Bromide 1 CAP IH DAILY 
9. Zolpidem Tartrate 5 mg PO QHS 
10. Acetaminophen 650 mg PO Q6H 
11. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2
12. Milk of Magnesia 30 mL PO QHS:PRN constipation 
13. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
14. Aspirin 81 mg PO DAILY 
15. butalbital-acetaminophen-caff 50-300-40 mg ORAL DAILY:PRN 
headache 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left upper lobe lung cancer.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.

* Continue to use your incentive spirometer 10 times an hour 
while awake. You will also need oxygen for awhile at home which 
you should wear continuously for now at ___ LPM via nasal 
cannula. Eventually you will be able to wean it off. The goal is 
saturations with activity > 90% on room air.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

 * You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.

* No driving while taking narcotic pain medication.

* Take Tylenol  ___ mg every 6 hours in between your narcotic.  

* Continue to stay well hydrated and eat well to heal your 
incisions

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
 * No tub bathing, swimming or hot tubs until incision healed
 * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

 

 

 
 
Followup Instructions:
___